US06333336B1
2-(4-Chlorophenyl)-2,5-dihydro-6-methyl-7-[4-(morpholin-4-yl)phenyl]-pyrazolo[4,3-c]pyridin-3-one
A mixture of 7-(4-bromophenyl)-2-(4-chlorophenyl)-2,5-dihydro-6-methylpyrazolo[4,3-c]pyridin-3-one (69.1 mg, 0.167 mmol), morpholine (34.9 ml, 0.400 mmol) and sodium tert-butoxide (61.1 mg, 0.636 mmol) in Ianhydrous DMF (3 ml) was degassed by evaporating the flask under vacuum and refilling with nitrogen several times. Solid (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl [(S)-BINAP] (10.5 mg, 0.0169 mmol) and tris(dibenzylideneacetone)dipalladium(0) (7.6 mg, 0.0083 mmol) were added and the mixture was stirred at 80° C. under nitrogen for 47 h, adding more (S)-BINAP (10.7 mg, 0.172 mmol) and tris(dibenzylideneacetone)dipalladium(0) (7.9 mg, 0.0086 mmol) after 23 h. The solvent was removed in vacuo and the residue was purified by flash chromatography (silica gel, 3-5% MoOH/CH2Cl2) and preparative HPLC (YMCSIL D column, 7% MeOH/1-chlorobutane) to give 17.9 mg (26%) of the title compound; mp 306-315° C. (CH2Cl2-MeOH-EtOAc); 1H NMR (360 MHz, DMSO-d6) δ2.27 (3H, s), 3.20 (4H, m), 3.77 (4H, m), 7.05 (2H, d, J8.8 Hz), 7.40 (2H, d), 7.42 (2H, d, J8.9 Hz), 8.15 (2H, d, J9.0 Hz), 8.51 (1H, s), 12.35 (1H, br s); MS (ES+) m/z 421/423[MH]+. Anal. found: C, 65.57; H, 4.84; N, 13.22. C23H21CIN4O2 requires: C, 65.63; H, 5.03; N, 13.31%.

reactant | 7-(4-bromophenyl)-2-(4-chlorophenyl)-2,5-dihydro-6-methylpyrazolo[4,3-c]pyridin-3-one | 0.167 mmol, 69.1 mg | BrC1=CC=C(C=C1)C=1C=2C(=CNC1C)C(N(N2)C2=CC=C(C=C2)Cl)=O | C19H13BrClN3O
reactant | morpholine | 0.400 mmol, 34.9 ml | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 0.636 mmol, 61.1 mg | CC(C)([O-])C.[Na+]
reactant | (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.0169 mmol, 10.5 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | (S)-BINAP | 0.172 mmol, 10.7 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0083 mmol, 7.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0086 mmol, 7.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(4-Chlorophenyl)-2,5-dihydro-6-methyl-7-[4-(morpholin-4-yl)phenyl]-pyrazolo[4,3-c]pyridin-3-one | 17.9 mg, 26% | ClC1=CC=C(C=C1)N1N=C2C(=CNC(=C2C2=CC=C(C=C2)N2CCOCC2)C)C1=O | C23H21ClN4O2
